US07138491B2
The preparation of Boc-Pro-Ala-OBzl
At 0° C. the solution of 500 mg (2.326 mmol) of HCl Ala-OBzl in 5 ml of anhydrous tetrahydrofuran was adjusted to pH 9, to which the pre-cold solution of 500 mg (2.326 mmol) of Boc-Pro-OH, 300 mg (2.222 mmol) of 1-hydroxybenzotriazole and 480 mg (2.331 mmol) of dicyclohexylcarbodiimide in 30 ml of anhydrous tetrahydrofuran was added. The reaction mixture was stirred at 0° C. for 2 h and at room temperature for 6 h and TLC (chloroform/methanol, 30:1) indicated complete disappearance of HCl.Ala-Lys(ClZ)-OBzl. The resulted precipitates of N,N-dicyclohexylurea were filtrated and the filtrate was diluted with 80 ml of ethyl acetate. The solution obtained was washed successively with saturated NaCO3 in water (50 ml×3), saturated NaCl in water (50 ml×3) and KHSO4 in water (5%, 30 ml×3). The separated ethyl acetate layer was dried with anhydrous MgSO4, and then evaporated to provide 782 mg (89%) of the title compound as a colorless powder. Mp100–101° C., FAB-MS (m/e) 377[M+H]+.

reactant | Boc-Pro-OH | 2.326 mmol, 500 mg | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | 1-hydroxybenzotriazole | 2.222 mmol, 300 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 2.331 mmol, 480 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | HCl | Cl | ClH
reactant | Ala-Lys(ClZ)-OBzl | N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OCC1=C(Cl)C=CC=C1)C(=O)OCC1=CC=CC=C1 | C24H30ClN3O5
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | Boc-Pro-Ala-OBzl | 782 mg, 89% | N1([C@H](C(=O)N[C@@H](C)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C20H28N2O5
